US07683058B2
6-Methyl-5-nitro-N*2*-(4-trifluoromethylbenzyl)-pyrimidine-2,4-diamine
A mixture of 2-chloro-6-methyl-5-nitropyrimidin-4-ylamine (300 mg, 1.591 mmol), 4-trifluoromethylbenzylamine (369 mg, 2.107 mmol) in acetonitrile (3 ml) and triethylamine (0.5 ml) were flashed with argon, sealed in the Emrys process vial and heated at 120° C. for 2 min under microwave irradiation. The obtained suspension was quenched with 10% aqueous sodium carbonate (2 ml) and organic volatiles were evaporated under reduced pressure. Methanol (5 ml) and water (100 ml) were added to the residue. The product was separated by filtration, washed with water and dried in vacuo to give 490 mg of yellow solid. Yield 94%. LC-MS (m/z) 328.1 (MH+); tR=2.58. 1H NMR (500 MHz, DMSO-d6): ca. 3:1 mixture of two rotamers, 2.54 (s, 3H), 4.57 (d, 1.5H), 4.63 (d, 0.5H), 7.52 (t, 2H), 7.68 (d, 2H), 7.81 (s, 0.5H, NH2), 8.0 (s, 1.5H, NH2), 8.17 (t, 0.25H, NH), 8.48 (t, 0.75H, NH).

reactant | 2-chloro-6-methyl-5-nitropyrimidin-4-ylamine | 1.591 mmol, 300 mg | ClC1=NC(=C(C(=N1)N)[N+](=O)[O-])C | C5H5ClN4O2
reactant | 4-trifluoromethylbenzylamine | 2.107 mmol, 369 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 6-Methyl-5-nitro-N*2*-(4-trifluoromethylbenzyl)-pyrimidine-2,4-diamine | 490 mg, Yield 94% | CC1=C(C(=NC(=N1)NCC1=CC=C(C=C1)C(F)(F)F)N)[N+](=O)[O-] | C13H12F3N5O2
